US05639752
G. 3-(2-Dimethylaminoethyl)-5-(3-trifluoromethylpyrid-2-ylamino)-1H-indole
6-Amino-3-(2-dimethylaminoethyl)indole and 2-chloro-3-trifiuoromethylpyridine were used. Pyridine was used as base, N,N-dimethylformamide was used as solvent, and the reaction was heated at reflux (153° C.) for 18 hours. Chromatography afforded the title compound (10%) as a clear, pale brown oil: 13C NMR (CD3OD) δ155.4, 152.3, 136.9, 136.1, 131.7, 129.0, 124.0, 120.9, 115.7, 113.9, 113.5, 112.5, 110.5, 61.4, 45.4, 24.3; LRMS (m/z, relative intensity) 348 (100, M+), 303 (16), 290 (28), 268 (11), 250 (20); HRMS calculated for C18H19F3N4 348.1564, found 348.1532.

reactant | 6-Amino-3-(2-dimethylaminoethyl)indole | NC1=CC=C2C(=CNC2=C1)CCN(C)C | C12H17N3
reactant | 2-chloro-3-trifiuoromethylpyridine | ClC1=NC=CC=C1C(F)(F)F | C6H3ClF3N
reactant | Pyridine | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 3-(2-Dimethylaminoethyl)-5-(3-trifluoromethylpyrid-2-ylamino)-1H-indole | 10% | CN(CCC1=CNC2=CC=C(C=C12)NC1=NC=CC=C1C(F)(F)F)C | C18H19F3N4
